US06083961
To a suspension of 3-methyl-7-(tetrahydropyran-2-yloxy)-2(3H)-benzoxazolone (280 mg) in methanol (2.3 ml) was added 1N hydrochloric acid (0.5 ml) at ambient temperature, and the mixture was stirred for 30 minutes. The reaction mixture was concentrated to 1/3 volume, and water was added thereto. The mixture was extracted with chloroform, and the extract was dried over magnesium sulfate and concentrated in vacuo. The residue was crystallized with diisopropyl ether to give 7-hydroxy-3-methyl-2(3H)-benzoxazolone (164 mg).

reactant | 3-methyl-7-(tetrahydropyran-2-yloxy)-2(3H)-benzoxazolone | 280 mg | CN1C(OC2=C1C=CC=C2OC2OCCCC2)=O | C13H15NO4
reactant | hydrochloric acid | 1N, 0.5 ml | Cl | ClH
solvent | methanol | 2.3 ml | CO | CH4O
product | 7-hydroxy-3-methyl-2(3H)-benzoxazolone | 164 mg | OC1=CC=CC=2N(C(OC21)=O)C | C8H7NO3
